US07148226B2
6-Cyclopentyl-6-{2-[4-(difluoromethyl)-3-fluorophenyl]ethyl}-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)thio]4-hydroxy-5,6-dihydro-2H-pyran-2-one
A mixture of 3-chloro-6-cyclopentyl-6-{-[4-(difluoromethyl)-3-fluorophenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione (200 mg, 0.514 mmol), from Step 1, below, and 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol (93 mg, 0.514 mmol) in DMF (4 mL) was treated with triethylamine (52 mg, 0.514 mmol, 1 equiv). The mixture stirred and heated at 55° C. for 4 h. The reaction was cooled to room temperature, and the DMF removed in vacuo. Water and ethyl acetate were added to the resinous material, resulting in the precipitation of a solid. This was filtered, washed with ether, and allowed to air dry, affording 186 mg (68%) of the title product.

reactant | 3-chloro-6-cyclopentyl-6-{-[4-(difluoromethyl)-3-fluorophenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione | 0.514 mmol, 200 mg | ClC1C(OC(CC1=O)(CCC1=CC(=C(C=C1)C(F)F)F)C1CCCC1)=O | C19H20ClF3O3
reactant | 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol | 0.514 mmol, 93 mg | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | triethylamine | 0.514 mmol, 52 mg, 1 equiv | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 6-Cyclopentyl-6-{2-[4-(difluoromethyl)-3-fluorophenyl]ethyl}-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)thio]4-hydroxy-5,6-dihydro-2H-pyran-2-one | 186 mg, 68% | C1(CCCC1)C1(CC(=C(C(O1)=O)SC1=NN2C(N=C(C=C2C)C)=N1)O)CCC1=CC(=C(C=C1)C(F)F)F | C26H27F3N4O3S
